US08470819B2
Step A: Preparation of tert-butyl 3-[(2-acetylhydrazino)carbonyl]pyrrolidine-1-carboxylate (i-8a)
Isobutyl chloroformate (152 μL, 1.16 mmol) was added to a stirred solution of 1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid (237 mg, 1.10 mmol) and 4-methylmorpholine (182 μL, 1.65 mmol) in THF (5.50 mL) at −78° C. After 15 min, added acetic hydrazide (2.0 mg, 1.10 mmol), and the resulting mixture was warmed slowly to rt. After 1 h, the reaction mixture was quenched with 0.5 M HCl and extracted with EtOAc. The combined organics were dried (sodium sulfate) and concentrated in vacuo to afford the title compound i-8a. m/z (ES) 272 (MH)+.

reactant | Isobutyl chloroformate | 1.16 mmol, 152 μL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-(tert-butoxycarbonyl)pyrrolidine-3-carboxylic acid | 1.10 mmol, 237 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)O | C10H17NO4
reactant | 4-methylmorpholine | 1.65 mmol, 182 μL | CN1CCOCC1 | C5H11NO
reactant | acetic hydrazide | 1.10 mmol, 2.0 mg | C(C)(=O)NN | C2H6N2O
solvent | THF | 5.50 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[(2-acetylhydrazino)carbonyl]pyrrolidine-1-carboxylate | C(C)(=O)NNC(=O)C1CN(CC1)C(=O)OC(C)(C)C | C12H21N3O4
